US07759337B2
A solution of 1-chloro-6-o-tolylphthalazine (0.100 g, 0.393 mmol) in NMP (2 mL) was treated with 3-(4-chlorophenyl)morpholine (0.155 g, 0.785 mmol) and diisopropylethylamine (0.219 mL, 1.26 mmol). The reaction solution was stirred at 120° C. in a sealed tube for 16 hours. After cooling to RT, the reaction solution was treated with saturated aqueous Na2CO3 (50 mL). The mixture was extracted with ethyl acetate (3×60 mL) and the combined organic phases were washed with brine. The organic solution was dried over magnesium sulfate and concentrated under reduced pressure. Flash chromatography on silica gel (ethyl acetate) gave 1-(3-(4-chlorophenyl)morpholino)-6-o-tolylphthalazine as a yellow solid. MS (ESI, pos.ion) m/z: 416.1 (M+1).

reactant | 1-chloro-6-o-tolylphthalazine | 0.393 mmol, 0.100 g | ClC1=NN=CC2=CC(=CC=C12)C1=C(C=CC=C1)C | C15H11ClN2
reactant | 3-(4-chlorophenyl)morpholine | 0.785 mmol, 0.155 g | ClC1=CC=C(C=C1)C1NCCOC1 | C10H12ClNO
reactant | diisopropylethylamine | 1.26 mmol, 0.219 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 1-(3-(4-chlorophenyl)morpholino)-6-o-tolylphthalazine | ClC1=CC=C(C=C1)C1COCCN1C1=NN=CC2=CC(=CC=C12)C1=C(C=CC=C1)C | C25H22ClN3O
